US07939533B2
(R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-{4-(4-fluoro-2-methyl-phenyl)-6-[3-(methanesulfonyl-methyl-amino)-pyrrolidin-1-yl]-pyridin-3-yl}-N-methyl-isobutyramide
To a solution of 150 mg (0.227 mmol) (R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-methanesulfonylamino-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide in 1 ml dimethylformamide were added 15 mg (0.34 mmol) sodium hydride (55% dispersion in mineral oil) at room temperature. After stirring at room temperature for 30 min 39 mg (27 mmol) iodomethane were added. The reaction mixture was stirred at room temperature for 18 h, followed by dilution with 10 ml ethyl acetate and washing with 10 ml saturated sodium carbonate solution. The combined organic layers were dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography to give 120 mg (78%) of the title compound as a white foam.

reactant | (R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-methanesulfonylamino-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.227 mmol, 150 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1C[C@@H](CC1)NS(=O)(=O)C)(C)C)(F)F | C30H31F7N4O3S
reactant | sodium hydride | 0.34 mmol, 15 mg | [H-].[Na+]
reactant | iodomethane | 27 mmol, 39 mg | IC | CH3I
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-{4-(4-fluoro-2-methyl-phenyl)-6-[3-(methanesulfonyl-methyl-amino)-pyrrolidin-1-yl]-pyridin-3-yl}-N-methyl-isobutyramide | 120 mg, 78% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1C[C@@H](CC1)N(C)S(=O)(=O)C)(C)C)(F)F | C31H33F7N4O3S
